US04596872
5,6-Dihydro-8-(3-methoxyphenyl)imidazo[1,2-a]pyridine
Combine 35 g of crude cyclopropyl 3-methoxyphenyl ketone with 60 g of imidazole, and heat to 200° C. for 18 hr. Dissolve the reaction mixture in 500 ml of methylene chloride, and wash with three 300 ml portions of water to remove the excess imidazole, further wash with two 100 ml portions of 10% sodium hydroxide. Dry the methylene chloride portion over magnesium sulfate, and remove the solvent in vacuo. Crystallize the residue from ether to provide the title compound.

reactant | cyclopropyl 3-methoxyphenyl ketone | 35 g | COC=1C=C(C=CC1)C(=O)C1CC1 | C11H12O2
reactant | imidazole | 60 g | N1C=NC=C1 | C3H4N2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 5,6-Dihydro-8-(3-methoxyphenyl)imidazo[1,2-a]pyridine | COC=1C=C(C=CC1)C=1C=2N(CCC1)C=CN2 | C14H14N2O
